US06750252B2
4-(Benzyloxy)-2-tert-butylbenzaldehyde (0.66 g; 2.44 mmole) and ethyl ethoxyacetate (0.39 g; 2.93 mmole) were dissolved in dry tetrahydrofuran (10 ml) and cooled to −20° C. Potassium tert-butoxide (0.33 g; 2.93 mmole) dissolved in dry tetrahydrofuran (1 ml) was slowly added and the reaction was stirred overnight at −20° C. The reaction was quenched with acetic acid (0.19 g; 3.18 mmole). The crude product was isolated, redissolved in toluene and refluxed over night with p-toluenesulfonic acid (0.05 g; 0.25 mmole) in a Dean-Stark apparatus to separate the water. The solution was cooled, washed with sodium hydrogen carbonate, dried with magnesium sulfate and evaporated. Purification of the crude product with preparative HPLC (Kromasil C8, 7 μm, 50×250 mm) using acetronitrile (50-100%) in ammonium acetate buffer (pH 7) as mobile phase gave 0.26 g (25% yield) of ethyl (2Z)-3-[4-(benzyloxy)-3-tert-butylphenyl]-2-ethoxyacrylate.

reactant | 4-(Benzyloxy)-2-tert-butylbenzaldehyde | 2.44 mmole, 0.66 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)C(C)(C)C | C18H20O2
reactant | ethyl ethoxyacetate | 2.93 mmole, 0.39 g | C(C)OCC(=O)OCC | C6H12O3
reactant | Potassium tert-butoxide | 2.93 mmole, 0.33 g | CC(C)([O-])C.[K+]
reactant | acetic acid | 3.18 mmole, 0.19 g | C(C)(=O)O | C2H4O2
reactant | p-toluenesulfonic acid | 0.25 mmole, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl (2Z)-3-[4-(benzyloxy)-3-tert-butylphenyl]-2-ethoxyacrylate | 0.26 g, 25% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)\C=C(\C(=O)OCC)/OCC)C(C)(C)C | C24H30O4
